US06964966B2
A mixture of 20% Pd(OH)2 on carbon (0.5 g) and 1-benzyl-4-cyclopropylamino-3-ethyl-3-methylpiperidine (3.54 g, 13.00 mmol) in methanol (70 ml) was stirred in hydrogen atmosphere (1 atm.) at 60° C. for 48 hr. The catalyst was filtered off, washed with methanol and filtrate was concentrated to dryness to afford 4-cyclopropylamino-3-ethyl-3-methylpiperidine. Yield 2.3 g (93%), C11H22N2, m/z 183 (M+1).

reactant | 1-benzyl-4-cyclopropylamino-3-ethyl-3-methylpiperidine | 13.00 mmol, 3.54 g | C(C1=CC=CC=C1)N1CC(C(CC1)NC1CC1)(C)CC | C18H28N2
solvent | methanol | 70 ml | CO | CH4O
solvent | hydrogen | [H][H] | H2
catalyst | Pd(OH)2 on carbon | 0.5 g | [OH-].[OH-].[Pd+2]
product | 4-cyclopropylamino-3-ethyl-3-methylpiperidine | C1(CC1)NC1C(CNCC1)(C)CC | C11H22N2
